US08211914B2
To a mixture of 2-chloro-5-nitropyridine (500 mg, 3.2 mmol) and 4-(3-trifluoromethyl-phenyl)-piperidine hydrochloride in DMF (15 mL) was added diisopropylethylamine (1.70 mL, 9.60 mmol). The mixture was heated in a sealed tube at 80° C. for 24 hours. The mixture was concentrated to dryness and triturated in methanol to give 5′-nitro-4-(3-triflouromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 2-chloro-5-nitropyridine | 3.2 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-(3-trifluoromethyl-phenyl)-piperidine hydrochloride | Cl.FC(C=1C=C(C=CC1)C1CCNCC1)(F)F
reactant | diisopropylethylamine | 9.60 mmol, 1.70 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5′-nitro-4-(3-triflouromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)C1=CC(=CC=C1)C(F)(F)F | C17H16F3N3O2
